US07288542B2
5-[6-Chloro-2-fluoro-3-(1-hydroxymethyl-5-methyl-6-oxo-1,6-dihydro-pyridazin-3-ylmethyl)-phenoxyl]-isophthalonitrile
Compounds I-22, I-27 and I-29 can be prepared in similar manner except 5-[6-chloro-2-fluoro-3-(5-methyl-6-oxo-1,6-dihydro-pyridazin-3-ylmethyl)-phenoxy]-isophthalonitrile was replaced with 3-chloro-5-[6-chloro-2-fluoro-3-(5-methyl-6-oxo-1,6-dihydro-pyridazin-3-ylmethyl)-phenoxy]-benzonitrile, 3-[6-chloro-2-fluoro-3-(5-methyl-6-oxo-1,6-dihydro-pyridazin-3-ylmethyl)-phenoxy]-5-difluoromethyl-benzonitrile and 3-[6-chloro-2-fluoro-3-(5-methyl-6-oxo-1,6-dihydro-pyridazin-3-ylmethyl)-phenoxy]-5-difluoromethyl-benzonitrile respectively.

reactant | 5-[6-chloro-2-fluoro-3-(5-methyl-6-oxo-1,6-dihydro-pyridazin-3-ylmethyl)-phenoxy]-isophthalonitrile | ClC1=CC=C(C(=C1OC=1C=C(C=C(C#N)C1)C#N)F)CC1=NNC(C(=C1)C)=O | C20H12ClFN4O2
reactant | 3-chloro-5-[6-chloro-2-fluoro-3-(5-methyl-6-oxo-1,6-dihydro-pyridazin-3-ylmethyl)-phenoxy]-benzonitrile | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)CC1=NNC(C(=C1)C)=O)F | C19H12Cl2FN3O2
reactant | 3-[6-chloro-2-fluoro-3-(5-methyl-6-oxo-1,6-dihydro-pyridazin-3-ylmethyl)-phenoxy]-5-difluoromethyl-benzonitrile | ClC1=CC=C(C(=C1OC=1C=C(C#N)C=C(C1)C(F)F)F)CC1=NNC(C(=C1)C)=O | C20H13ClF3N3O2
product | 5-[6-Chloro-2-fluoro-3-(1-hydroxymethyl-5-methyl-6-oxo-1,6-dihydro-pyridazin-3-ylmethyl)-phenoxyl]-isophthalonitrile | ClC1=CC=C(C(=C1OC=1C=C(C=C(C#N)C1)C#N)F)CC1=NN(C(C(=C1)C)=O)CO | C21H14ClFN4O3
